2188-09-20 07:07:00 Physician Resident Progress Note
Chief Complaint: EtOH withdrawal
   24 Hour Events:
   Transferred to MICU
   Required frequent ativan, received total of 12mg ativan in MICU, 20mg
   IV valium, and 5mg zyprexa with some benefit but breakthrough
   agitation.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2188-9-20**] 12:30 AM
   Lorazepam (Ativan) - [**2188-9-20**] 05:45 AM
   Other medications:
   Ativan 12mg total Diazepam 20mg IV tot
   Zyprexa x1 5mg.
   Review of systems is unchanged from admission
   Flowsheet Data as of  [**2188-9-20**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.5
   HR: 106 (82 - 116) bpm
   BP: 158/99(115) {106/59(68) - 158/99(115)} mmHg
   RR: 16 (15 - 30) insp/min
   SpO2: 98%
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    270 mL
                                                                    490 mL
   Urine:
                                                                    270 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -270 mL
                                                                   -490 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : b/l at bases )
   Abdominal: Soft, Non-tender, No(t) Distended
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Oriented (to): 0; remains
   agitated when awake and unable to communicate, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   202 K/uL
   10.1 g/dL
   108 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.3 mEq/L
   10 mg/dL
   104 mEq/L
   138 mEq/L
   29.2 %
   9.1 K/uL
         [image002.jpg]
                            [**2188-9-20**]  05:30 AM
   ECG this am without significant change from prior; VRate 87, LAD, RBBB,
   no ischemic changes. Old q in V1 unchanged.
   WBC
   9.1
   Hct
   29.2
   Plt
   202
   Cr
   0.9
   Glucose
   108
   Other labs: Ca++:9.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   82 y/oM a/w ankle fracture s/p ORIF on [**9-18**] after fall while
   intoxicated now with severe agitation and timing that is appropriate
   for EtOH withdrawal. Ongoing agitation.
   #Agitation and Confusion
   -          Pain vs. withdrawal vs. medical delirium
   -          Re-orientation in native language as much as possible
   -          Received zydis 5mg x1, can repeat today if needed; EtOH
   withdrawal as described below
   # Alcohol withdrawal
   -          Ativan 2mg IV q1h PRN CIWA > 10
   -          Will add up total amount and change to standing dose after
   initial day, reduce by 20%/day
   -          Transition to PO valium if becomes more lucid and still in
   need of medication
   -          Close nursing supervision, bed alarm
   -          SW referral
 he has denied detox programs in the past
   Hypertension
   - No home medications known or otherwise patient denies medications.
   - IV hydralazine can be used to control BP as needed; also use
   hypertension as marker for withdrawal
   # Hypoxia
 plan unchanged, CXR Today when less agitated
   Room air sat on MICU admission was ~89-90%, unclear reason. Has had
   aspiration pnas in the past. CXR on admission showed no clear
   infiltrate.
   -          Recheck CXR when would tolerate given lower o2 sats. He was
   noted to be 97% on room air by admitting nurse on cc6. DDx would also
   include thromboembolic given orthopedic surgery and fall/being down.
   -          Obtain further data in order to characterize risk, starting
   with CXR.
   -          No change on  his ECG. Check one set of cardiac biomarkers
   myocardial demand, esp peri-op.
   # R lateral malleolar fracture: s/p ORIF on [**9-18**]
   - ortho following
   - NWB RLE (can be touchdown if can't do NWB)
   - pain control
   - lovenox  ordered for today
   - Stays in splint until f/u (with [**Doctor Last Name 6048**])
   .
   # FEN:  NPO pending mental status
   # PPX:  lovenox
   # Code Status: presumed FULL
   ICU Care
   Lines:
   22 Gauge - [**2188-9-19**] 09:00 PM
   20 Gauge - [**2188-9-19**] 10:00 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2188-09-20 07:46:00 Physician Attending Progress Note
Chief Complaint: ETOH withdrawl
   24 Hour Events: 12mg ativan 20mg iv valium, 5mg zydis.  Sats 88-90%
   RA.  Not receiveing PO meds.  Appears in pain.
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2188-9-20**] 12:30 AM
   Lorazepam (Ativan) - [**2188-9-20**] 05:45 AM
   Other medications:
   Vit D
   Tums
   Folate
   MVI
   Thiamine
   Lovenox 40mg qday
   Protonix
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-9-20**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.5
   HR: 112 (82 - 116) bpm
   BP: 158/99(115) {106/59(68) - 158/99(115)} mmHg
   RR: 28 (15 - 30) insp/min
   SpO2: 98% 2L
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    270 mL
                                                                    490 mL
   Urine:
                                                                    270 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -270 mL
                                                                   -490 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   Gen:  Aggitated, appear in pain
   HEENT:right pupil appears surgical left reactive.
   Heart:Tachy s1s2 no m/r/g
   Lungs:rales bases
   Abd: soft NT
   Ext:right RLE ankle bandaged. Otherwise no edema
   Labs / Radiology
   10.1 g/dL
   202 K/uL
   108 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.3 mEq/L
   10 mg/dL
   104 mEq/L
   138 mEq/L
   29.2 %
   9.1 K/uL
        [image002.jpg]
                            [**2188-9-20**]  05:30 AM
   WBC
   9.1
   Hct
   29.2
   Plt
   202
   Cr
   0.9
   Glucose
   108
   Other labs: Ca++:9.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan:  I saw and examined the patient, and was
   physically present with the ICU Resident for key portions of the
   services provided.  I agree with his / her note, including assessment
   and plan.
   82 yo man with h/o ETOH abuse was found down on [**9-17**] in bathroom,
   stuporous.  Found to be intoxicated and with broken ankle on right.
   Went for ORIF on [**9-18**].  In PACU was hypertensive, BP controlled with
   hydral and started on CIWA scale with ativan.  This morning seen by
   psychiatry liason ?post-op delirium.  Seen by med consult on [**9-19**].
   received total of 12mg of ativan and 20 valium and 5 zydis
   overnight.
   ETOH withdrawl: Ativan q2h as per ciwa.  Will change to MVI/Thiame IV.
   Bannana bag if no signs of failure.
   Agitation: Continue antipsychotics with zidis for agitation.  Will
   treat pain with IV morphine.
   HTN:  Hold off on treating as may be largely due to
   withdrawl/agitation.
   Hypoxemia:  Unclear etiology will check one set cardiac enzymes, Chest
   x-ray as for etiology of delirium/aggitation
   Fracture: non weight bearing continue lovenox
   FEN: NPO
   Social: Contact family and get translator.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2188-9-19**] 09:00 PM
   20 Gauge - [**2188-9-19**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 25 minutes

2188-09-21 07:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   1.       CXR: early infiltrate vs. atelectasis.  No pulmonary edema
   2.       Cardiac Enzymes: negative
   3.       Family communication
 not done
   4.       Social work: didn
t come
   5.       Increased pain control w/ IV Morphine
   6.       Agitation treated with Morphine/Ativan/Haldol
   7.       Extra dose of Ativan 2 @ 3pm
   8.       Patient lost access and was given 2mg haldol for sedation
   9.       Changed to Valium CIWA Scale
 was changed to PO given lack of
   access, and crushed in applesauce
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2188-9-20**] 08:00 AM
   Lorazepam (Ativan) - [**2188-9-20**] 11:07 PM
   Morphine Sulfate - [**2188-9-20**] 11:07 PM
   Haloperidol (Haldol) - [**2188-9-21**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-9-21**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.9
C (96.6
   HR: 110 (85 - 125) bpm
   BP: 122/66(79) {121/61(76) - 180/120(126)} mmHg
   RR: 37 (14 - 37) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                    500 mL
                  PO:
                  TF:
   IVF:
                                                                    500 mL
   Blood products:
   Total out:
                                                                  1,490 mL
                                                                    352 mL
   Urine:
                                                                  1,490 mL
                                                                    352 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -990 mL
                                                                   -352 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   264 K/uL
   10.8 g/dL
   108 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.3 mEq/L
   10 mg/dL
   104 mEq/L
   138 mEq/L
   29.9 %
   10.5 K/uL
        [image002.jpg]
                            [**2188-9-20**]  05:30 AM
                            [**2188-9-21**]  05:39 AM
   WBC
   9.1
   10.5
   Hct
   29.2
   29.9
   Plt
   202
   264
   Cr
   0.9
   TropT
   <0.01
   Glucose
   108
   Other labs: PT / PTT / INR:12.1/18.2/1.0, CK / CKMB /
   Troponin-T:/7/<0.01, Ca++:9.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   82 y/oM a/w ankle fracture s/p ORIF on [**9-18**] after fall while
   intoxicated now with severe agitation and timing that is appropriate
   for EtOH withdrawal. Ongoing agitation.
   #Agitation and Confusion
   -          Pain vs. withdrawal vs. medical delirium
   -          Re-orientation in native language as much as possible
   -          Received zydis 5mg x1, can repeat today if needed; EtOH
   withdrawal as described below
   # Alcohol withdrawal
   -          Ativan 2mg IV q1h PRN CIWA > 10
   -          Will add up total amount and change to standing dose after
   initial day, reduce by 20%/day
   -          Transition to PO valium if becomes more lucid and still in
   need of medication
   -          Close nursing supervision, bed alarm
   -          SW referral
 he has denied detox programs in the past
   Hypertension
   - No home medications known or otherwise patient denies medications.
   - IV hydralazine can be used to control BP as needed; also use
   hypertension as marker for withdrawal
   # Hypoxia
 plan unchanged, CXR Today when less agitated
   Room air sat on MICU admission was ~89-90%, unclear reason. Has had
   aspiration pnas in the past. CXR on admission showed no clear
   infiltrate.
   -          Recheck CXR when would tolerate given lower o2 sats. He was
   noted to be 97% on room air by admitting nurse on cc6. DDx would also
   include thromboembolic given orthopedic surgery and fall/being down.
   -          Obtain further data in order to characterize risk, starting
   with CXR.
   -          No change on  his ECG. Check one set of cardiac biomarkers
   myocardial demand, esp peri-op.
   # R lateral malleolar fracture: s/p ORIF on [**9-18**]
   - ortho following
   - NWB RLE (can be touchdown if can't do NWB)
   - pain control
   - lovenox  ordered for today
   - Stays in splint until f/u (with [**Doctor Last Name 6048**])
   .
   # FEN:  NPO pending mental status
   # PPX:  lovenox
   # Code Status: presumed FULL
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2188-09-21 08:13:00 Physician Attending Progress Note
24 Hour Events:Lost venous access, enzymes negative.  Difficulty with
   delirium. 10mg valium po and 2mg Ativan IM and 2mg IM morphine.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2188-9-20**] 11:07 PM
   Morphine Sulfate - [**2188-9-20**] 11:07 PM
   Haloperidol (Haldol) - [**2188-9-21**] 12:15 AM
   Other medications:
   Tylenol
   Colace
   Folate/thiamine/MVI held
   Lovenox 40mg
   protonix
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-9-21**] 08:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.9
C (96.6
   HR: 110 (85 - 125) bpm
   BP: 122/66(79) {121/61(76) - 180/120(126)} mmHg
   RR: 37 (14 - 37) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                    500 mL
                  PO:
                  TF:
   IVF:
                                                                    500 mL
   Blood products:
   Total out:
                                                                  1,490 mL
                                                                    352 mL
   Urine:
                                                                  1,490 mL
                                                                    352 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -990 mL
                                                                   -352 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///27/
   Physical Examination
   Gen:  sleeping NAD
   HEENT:right pupil appears surgical left reactive.
   Heart:Tachy s1s2 no m/r/g
   Lungs:decreased bases
   Abd: soft NT
   Ext:right RLE ankle bandaged. Otherwise no edema
   Labs / Radiology: NG Tube in place
   10.8 g/dL
   264 K/uL
   114 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.5 mEq/L
   12 mg/dL
   100 mEq/L
   138 mEq/L
   29.9 %
   10.5 K/uL
        [image002.jpg]
                            [**2188-9-20**]  05:30 AM
                            [**2188-9-21**]  05:39 AM
   WBC
   9.1
   10.5
   Hct
   29.2
   29.9
   Plt
   202
   264
   Cr
   0.9
   0.8
   TropT
   <0.01
   Glucose
   108
   114
   Other labs: PT / PTT / INR:12.1/18.2/1.0, CK / CKMB /
   Troponin-T:/7/<0.01, Ca++:9.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan.
   82 yo man with h/o ETOH abuse was found down on [**9-17**] in bathroom,
   stuporous.  Found to be intoxicated and with broken ankle on right.
   With ETOH withdrawl and agitation from pain
   ETOH withdrawl, delirium tremens: MVI/Thiamine/folate.  10mg Q1hr
   valium prn via CIWA.
   Currently hypotensive, likely secondary to meds.
   Agitation: Continue antipsychotics with zidis for agitation.  Suspect
   pain as a component will treat with oxycodone 5mg q4hr standing. And
   5-10mg prn.
   HTN:  Hold off on treating as may be largely due to
   withdrawal/agitation.
   Hypoxemia:  was only requiring 2 lpm O2. Unclear etiology will check
   one set cardiac enzymes, Chest x-ray as for etiology of
   delirium/agitation.  Possible atelectasis improved/stable
   Fracture: non weight bearing continue lovenox
   FEN: start tube feeds.
   Social: Contact family and get translator.
   Access: Will have IV service attempt IV access.
   Dispo: MICU.
   ICU Care
   Nutrition:
   Glycemic Control:
   DVT: lovenox
   Stress ulcer: PPI
   VAP:
   Communication:  Comments:
   Code status: Full code, Total  35 min critical care time

2188-09-22 07:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -continued on CIWA scale
   -placed NG tube, started on tube feeds
   -had left PIV placed, and right US guided deep brachial PIV placed
   -switched valium to PO
   -switched IV morphine to oxycodone
   -pulled NGT, replaced later in night
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2188-9-21**] 08:10 AM
   Lorazepam (Ativan) - [**2188-9-21**] 08:40 AM
   Diazepam (Valium) - [**2188-9-21**] 11:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-9-22**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.6
C (97.8
   HR: 134 (74 - 134) bpm
   BP: 177/59(91) {86/40(54) - 177/143(151)} mmHg
   RR: 34 (11 - 42) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
                  Total In:
                                                                  2,288 mL
                                                                     24 mL
   PO:
                  TF:
                                                                     88 mL
                                                                     24 mL
   IVF:
                                                                  2,000 mL
   Blood products:
   Total out:
                                                                    887 mL
                                                                    780 mL
   Urine:
                                                                    887 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,401 mL
                                                                   -757 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.36/54/34//2
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   264 K/uL
   10.8 g/dL
   114 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.5 mEq/L
   12 mg/dL
   100 mEq/L
   138 mEq/L
   29.9 %
   10.5 K/uL
        [image002.jpg]
                            [**2188-9-20**]  05:30 AM
                            [**2188-9-21**]  05:39 AM
                            [**2188-9-21**]  01:10 PM
   WBC
   9.1
   10.5
   Hct
   29.2
   29.9
   Plt
   202
   264
   Cr
   0.9
   0.8
   TropT
   <0.01
   TCO2
   32
   Glucose
   108
   114
   Other labs: PT / PTT / INR:12.1/18.2/1.0, CK / CKMB /
   Troponin-T:/7/<0.01, Ca++:9.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   Assessment and Plan
   82 y/oM a/w ankle fracture s/p ORIF on [**9-18**] after fall while
   intoxicated now with severe agitation and timing that is appropriate
   for EtOH withdrawal. Ongoing agitation.
   #Agitation and Confusion
                     Pain vs. withdrawal vs. medical delirium
                     Benzos changed from Ativan to Valium
                     Given lack of IV access at this time, NGT placed
   for PO Valium
                     Will administer standing pain medications via NGT
                     Will begin nutrition with TFs, continue
   aspiration precautions
                     Social work consult when appropriate
   Hypertension
          Will treat underlying agitation/delirium
          Will restart home medications when appropriate.
   # Hypoxia
 plan unchanged, CXR Today when less agitated
          CXR without clear infiltrate
          Tolerating minmal oxygen supplementation at this time
   # R lateral malleolar fracture: s/p ORIF on [**9-18**]
          ortho following
          NWB RLE (can be touchdown if can't do NWB)
          pain control
          lovenox  ordered for today
          Stays in splint until f/u (with [**Doctor Last Name 6048**])
   .
   # FEN:  NPO pending mental status
   # PPX:  lovenox
   # Code Status: presumed FULL
   ICU Care
   Nutrition: TFs vis NGT
   Glycemic Control:
   Lines: none
   Prophylaxis:
   DVT: boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2188-9-22**] 04:52 AM 10 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2188-9-21**] 04:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2188-09-23 08:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   agitated overnight, continued on CIWA scale
   tube feeds held overnight, concern for aspiration
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2188-9-22**] 09:05 AM
   Morphine Sulfate - [**2188-9-23**] 04:26 AM
   Diazepam (Valium) - [**2188-9-23**] 06:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-9-23**] 08:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 93 (71 - 106) bpm
   BP: 149/64(85) {99/45(62) - 159/84(101)} mmHg
   RR: 13 (9 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  3,979 mL
                                                                  1,058 mL
   PO:
             TF:
                                                                    627 mL
                                                                    103 mL
   IVF:
                                                                  1,923 mL
                                                                    676 mL
   Blood products:
   Total out:
                                                                  1,920 mL
                                                                    340 mL
   Urine:
                                                                  1,920 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,059 mL
                                                                    718 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   Gen:sedated, awakens to voice.
   Cardio:RRR, no m/g/r
   Pulm: CTA b/l
   GI: abd soft, NT, ND
   Ext: left leg wrapped with cast, right leg without edema
   Labs / Radiology
   225 K/uL
   9.0 g/dL
   148 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.8 mEq/L
   9 mg/dL
   105 mEq/L
   139 mEq/L
   26.8 %
   6.9 K/uL
        [image002.jpg]
                            [**2188-9-20**]  05:30 AM
                            [**2188-9-21**]  05:39 AM
                            [**2188-9-21**]  01:10 PM
                            [**2188-9-22**]  05:11 PM
                            [**2188-9-23**]  06:02 AM
   WBC
   9.1
   10.5
   7.2
   6.9
   Hct
   29.2
   29.9
   25.3
   26.8
   Plt
   [**Telephone/Fax (3) 6095**]25
   Cr
   0.9
   0.8
   1.0
   0.8
   TropT
   <0.01
   TCO2
   32
   Glucose
   108
   114
   139
   148
   Other labs: PT / PTT / INR:12.1/18.2/1.0, CK / CKMB /
   Troponin-T:/7/<0.01, Ca++:9.0 mg/dL, Mg++:2.3 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   82 y/oM a/w ankle fracture s/p ORIF on [**9-18**] after fall while
   intoxicated now with severe agitation and timing that is appropriate
   for EtOH withdrawal. Ongoing agitation.
   #Agitation and Confusion: Pain vs. withdrawal vs. medical delirium.
   Responding to valium and oxycodone.
   -Continue valium per CIWA scale
   -continue standing oxycodone for pain
   .
   #alcoholism: multivitamins in tube feeds.  Will get thiamine 100mg IV
   x3.
    .
   #Hypertension: secondary to delirium and agitation.  Holding home
   antihypertensive medications.
   .
   # R lateral malleolar fracture: s/p ORIF on [**9-18**] :
   - ortho following
   - NWB RLE (can be touchdown if can't do NWB)
   - pain control
   - lovenox  ordered for today
   - Stays in splint until f/u (with [**Doctor Last Name 6048**])
   # FEN:Tube feeds
   # PPX:  lovenox
   # Code Status: presumed FULL
   ICU Care
   Nutrition: TFs vis NGT
   Glycemic Control:
   Lines: none
   Prophylaxis:
   DVT: boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2188-9-22**] 04:52 AM 10 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2188-9-21**] 04:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2188-9-21**] 04:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2188-09-23 09:30:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: ETOH withdrawal s/p ORIF ankle
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   - dosed benzos overnight for agitation per CIWA scale
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Sedated, Unresponsive, ETOH
   withdrawal
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2188-9-23**] 04:26 AM
   Diazepam (Valium) - [**2188-9-23**] 06:11 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Heme / Lymph: Anemia
   Psychiatric / Sleep: Agitated
   Signs or concerns for abuse : No
   Pain: [**12-5**] Minimal
   Pain location: ankle
   Flowsheet Data as of  [**2188-9-23**] 09:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 93 (71 - 106) bpm
   BP: 149/64(85) {99/45(62) - 159/84(101)} mmHg
   RR: 13 (9 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  3,979 mL
                                                                  1,058 mL
   PO:
             TF:
                                                                    627 mL
                                                                    103 mL
   IVF:
                                                                  1,923 mL
                                                                    676 mL
   Blood products:
   Total out:
                                                                  1,920 mL
                                                                    340 mL
   Urine:
                                                                  1,920 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,059 mL
                                                                    718 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Crackles : bases)
   Abdominal: Soft, Distended
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.0 g/dL
   225 K/uL
   148 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.8 mEq/L
   9 mg/dL
   105 mEq/L
   139 mEq/L
   26.8 %
   6.9 K/uL
        [image002.jpg]
                            [**2188-9-20**]  05:30 AM
                            [**2188-9-21**]  05:39 AM
                            [**2188-9-21**]  01:10 PM
                            [**2188-9-22**]  05:11 PM
                            [**2188-9-23**]  06:02 AM
   WBC
   9.1
   10.5
   7.2
   6.9
   Hct
   29.2
   29.9
   25.3
   26.8
   Plt
   [**Telephone/Fax (3) 6095**]25
   Cr
   0.9
   0.8
   1.0
   0.8
   TropT
   <0.01
   TCO2
   32
   Glucose
   108
   114
   139
   148
   Other labs: PT / PTT / INR:12.1/18.2/1.0, CK / CKMB /
   Troponin-T:/7/<0.01, Ca++:9.0 mg/dL, Mg++:2.3 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   I saw and examined the patient, and was physically present with Dr.
   [**Last Name (STitle) 2149**] for key portions of the services provided.  I agree with his
   note, including assessment and plan.
   82 yo man with h/o ETOH abuse found down on [**9-17**] in bathroom,
   stuporous.  Found to be intoxicated and with broken ankle on right.
   EtOH withdrawal s/p ORIF of ankle.
   ETOH withdrawl, delirium tremens:
   - MVI/Thiamine/folate.
   - PO valium prn via CIWA
 still requiring freq dosing
   -  close observation
 still w/ sx withdrawal
   Agitation:
   Continue antipsychotics with zidis for agitation.
   Component of pain sec to ORIF - treat with oxycodone standing + prn
   Hemodyn
   Hemodynamics improved
 now borderline HTN
   antiHTN meds on hold
 might need to begin to add back on today
   HTN:
   Holding of antiHTN meds
   Transient HOTN resolved
   Hypoxemia
   Resolving
 low requirement 2L via NC.
   ? aspiration vs. atelectesis. r/o mi
   Fracture:
   s/p ORIF
   Pain control as above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2188-9-21**] 04:20 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:

2188-09-24 07:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   1.       Continued Valium
   2.       Total Valium dose: 15 mg x 14 doses.  Total 210mg
   3.       Lost IV access
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2188-9-23**] 10:21 PM
   Diazepam (Valium) - [**2188-9-24**] 06:33 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-9-24**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.9
C (98.4
   HR: 95 (75 - 114) bpm
   BP: 184/89(111) {125/53(68) - 194/89(111)} mmHg
   RR: 22 (10 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  3,777 mL
                                                                  1,077 mL
   PO:
             TF:
                                                                    103 mL
   IVF:
                                                                  2,834 mL
                                                                    837 mL
   Blood products:
   Total out:
                                                                  2,270 mL
                                                                    700 mL
   Urine:
                                                                  2,270 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,507 mL
                                                                    377 mL
   Respiratory support
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   201 K/uL
   9.2 g/dL
   139 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.5 mEq/L
   6 mg/dL
   104 mEq/L
   138 mEq/L
   27.0 %
   6.7 K/uL
        [image002.jpg]
                            [**2188-9-20**]  05:30 AM
                            [**2188-9-21**]  05:39 AM
                            [**2188-9-21**]  01:10 PM
                            [**2188-9-22**]  05:11 PM
                            [**2188-9-23**]  06:02 AM
                            [**2188-9-24**]  04:12 AM
   WBC
   9.1
   10.5
   7.2
   6.9
   6.7
   Hct
   29.2
   29.9
   25.3
   26.8
   27.0
   Plt
   [**Telephone/Fax (3) 6095**]25
   201
   Cr
   0.9
   0.8
   1.0
   0.8
   0.8
   TropT
   <0.01
   TCO2
   32
   Glucose
   108
   114
   139
   148
   139
   Other labs: PT / PTT / INR:12.1/18.2/1.0, CK / CKMB /
   Troponin-T:/7/<0.01, Ca++:8.8 mg/dL, Mg++:1.8 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   82 y/oM a/w ankle fracture s/p ORIF on [**9-18**] after fall while
   intoxicated now with severe agitation and timing that is appropriate
   for EtOH withdrawal. Ongoing agitation.
   #Agitation and Confusion: Pain vs. withdrawal vs. medical delirium.
   Responding to valium and oxycodone.
   -Continue valium per CIWA scale
   -continue standing oxycodone for pain
   .
   #alcoholism: multivitamins in tube feeds.  Will get thiamine 100mg IV
   x3.
    .
   #Hypertension: secondary to delirium and agitation.  Holding home
   antihypertensive medications.
   .
   # R lateral malleolar fracture: s/p ORIF on [**9-18**] :
   - ortho following
   - NWB RLE (can be touchdown if can't do NWB)
   - pain control
   - lovenox  ordered for today
   - Stays in splint until f/u (with [**Doctor Last Name 6048**])
   # FEN:Tube feeds
   # PPX:  lovenox
   # Code Status: presumed FULL
   ICU Care
   Nutrition: TFs vis NGT
   Glycemic Control:
   Lines: none
   Prophylaxis:
   DVT: boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2188-9-22**] 04:52 AM 10 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2188-9-21**] 04:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2188-9-21**] 04:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2188-9-21**] 04:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2188-09-25 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2188-9-24**] 02:00 PM
   1.discontinued diazepam
   2.added haldol, received 8mg overnight
   3.head CT negative
   4.PICC placed.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2188-9-24**] 10:51 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-9-25**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37
C (98.6
   HR: 76 (76 - 110) bpm
   BP: 117/64(74) {103/50(56) - 178/110(109)} mmHg
   RR: 15 (11 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,319 mL
                                                                    910 mL
   PO:
             TF:
   IVF:
                                                                  1,739 mL
                                                                    880 mL
   Blood products:
   Total out:
                                                                  2,350 mL
                                                                    900 mL
   Urine:
                                                                  2,350 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -31 mL
                                                                     10 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.37/54/117/34/4
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   250 K/uL
   8.8 g/dL
   125 mg/dL
   0.7 mg/dL
   34 mEq/L
   3.5 mEq/L
   6 mg/dL
   102 mEq/L
   140 mEq/L
   25.1 %
   7.1 K/uL
        [image002.jpg]
                            [**2188-9-20**]  05:30 AM
                            [**2188-9-21**]  05:39 AM
                            [**2188-9-21**]  01:10 PM
                            [**2188-9-22**]  05:11 PM
                            [**2188-9-23**]  06:02 AM
                            [**2188-9-24**]  04:12 AM
                            [**2188-9-24**]  01:39 PM
                            [**2188-9-24**]  06:50 PM
                            [**2188-9-25**]  03:43 AM
   WBC
   9.1
   10.5
   7.2
   6.9
   6.7
   7.1
   Hct
   29.2
   29.9
   25.3
   26.8
   27.0
   25.1
   Plt
   [**Telephone/Fax (2) 6113**]
   Cr
   0.9
   0.8
   1.0
   0.8
   0.8
   0.7
   TropT
   <0.01
   TCO2
   32
   32
   32
   Glucose
   108
   114
   139
   148
   139
   125
   Other labs: PT / PTT / INR:12.1/18.2/1.0, CK / CKMB /
   Troponin-T:/7/<0.01, ALT / AST:25/33, Alk Phos / T Bili:133/0.8,
   Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   82 y/oM a/w ankle fracture s/p ORIF on [**9-18**] after fall while
   intoxicated now with severe agitation and timing that is appropriate
   for EtOH withdrawal. Ongoing agitation.
   #Agitation and Confusion: Pain vs. withdrawal vs. medical delirium. Has
   been on CIWA scale for 6 days and has received significant amounts of
   valium.  He should no longer be withdrawing from EtOH.  Contact[**Name (NI) **]
   psychiatry for help in management, they suggested discontinuing valium,
   and adding haldol for agitation. Will go back to valium if patient
   exhibits further signs of withdrawal such as tremulousness or
   diaphoresis. Will continue with oxycodone.
   -discontinue valium per CIWA scale
   -add haldol 1-2mg PO q1h:prn agitation
   -continue standing oxycodone for pain
   -check ekg for QTc prolongation
   -head CT to rule out  bleed
   -check TSH, vitamin B12
   .
   #alcoholism: multivitamins in tube feeds.  Will get thiamine 100mg IV
   x3.
    .
   #Hypertension: secondary to delirium and agitation.  Holding home
   antihypertensive medications.
   .
   # R lateral malleolar fracture: s/p ORIF on [**9-18**] :
   - ortho following
   - NWB RLE (can be touchdown if can't do NWB)
   - pain control
   - lovenox  ordered for today
   - Stays in splint until f/u (with [**Doctor Last Name 6048**])
   .
   #Access: lost both peripheral IV
s overnight.  Will request PICC
   placement
   # FEN:Tube feeds
   # PPX:  lovenox
   # Code Status: presumed FULL
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2188-9-22**] 04:52 AM 10 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2188-9-21**] 04:20 PM
   Prophylaxis:
   DVT:
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2188-9-21**] 04:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2188-9-24**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2188-09-26 07:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   1.bolused for low urine output
   2.no other clinical changes
   3.psych wanted an EEG, so he's ordered for that
   4.ABG performed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Hydralazine - [**2188-9-25**] 02:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-9-26**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.7
C (99.9
   HR: 80 (72 - 121) bpm
   BP: 101/61(73) {97/43(56) - 181/109(114)} mmHg
   RR: 17 (13 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,799 mL
                                                                  1,639 mL
   PO:
             TF:
                                                                    200 mL
                                                                    363 mL
   IVF:
                                                                  1,209 mL
                                                                  1,216 mL
   Blood products:
   Total out:
                                                                  1,805 mL
                                                                    140 mL
   Urine:
                                                                  1,805 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     -6 mL
                                                                  1,499 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 100%
   ABG: 7.46/46/59/32/7
   PaO2 / FiO2: 148
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   259 K/uL
   8.6 g/dL
   148 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.2 mEq/L
   11 mg/dL
   103 mEq/L
   140 mEq/L
   24.7 %
   8.4 K/uL
        [image002.jpg]
                            [**2188-9-21**]  05:39 AM
                            [**2188-9-21**]  01:10 PM
                            [**2188-9-22**]  05:11 PM
                            [**2188-9-23**]  06:02 AM
                            [**2188-9-24**]  04:12 AM
                            [**2188-9-24**]  01:39 PM
                            [**2188-9-24**]  06:50 PM
                            [**2188-9-25**]  03:43 AM
                            [**2188-9-25**]  12:16 PM
                            [**2188-9-26**]  03:34 AM
   WBC
   10.5
   7.2
   6.9
   6.7
   7.1
   8.4
   Hct
   29.9
   25.3
   26.8
   27.0
   25.1
   24.7
   Plt
   [**Telephone/Fax (2) 6135**]
   Cr
   0.8
   1.0
   0.8
   0.8
   0.7
   0.8
   TCO2
   32
   32
   32
   34
   Glucose
   114
   139
   148
   139
   125
   148
   Other labs: PT / PTT / INR:13.6/28.8/1.2, CK / CKMB /
   Troponin-T:/7/<0.01, ALT / AST:25/33, Alk Phos / T Bili:133/0.8,
   Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 IMPAIRED SKIN INTEGRITY
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   82 y/oM a/w ankle fracture s/p ORIF on [**9-18**] after fall while
   intoxicated now with severe agitation and timing that is appropriate
   for EtOH withdrawal. Ongoing agitation.
    #Agitation and Confusion: Pain vs. withdrawal vs. medical delirium.
   Has been on CIWA scale for 6 days and has received significant amounts
   of valium.  He should no longer be withdrawing from EtOH.  Contact[**Name (NI) **]
   psychiatry for help in management, they suggested discontinuing valium,
   and adding haldol for agitation. Will go back to valium if patient
   exhibits further signs of withdrawal such as tremulousness or
   diaphoresis. Will continue with oxycodone.
   -add haldol 1-2mg PO q1h:prn agitation
   -continue standing oxycodone for pain
   -check ekg for QTc prolongation
   -Vitamin B12 deficient. Will add vitamin B12
   .
   #alcoholism: multivitamins in tube feeds.  Will get thiamine 100mg IV
   x3.
    .
   #Hypertension: secondary to delirium and agitation.  Holding home
   antihypertensive medications.
   .
   # R lateral malleolar fracture: s/p ORIF on [**9-18**] :
   - ortho following
   - NWB RLE (can be touchdown if can't do NWB)
   - pain control
   - lovenox  ordered for today
   - Stays in splint until f/u (with [**Doctor Last Name 6048**])
   .
   #Access: lost both peripheral IV
s overnight.  Will request PICC
   placement
   # FEN:Tube feeds
   # PPX:  lovenox
   # Code Status: presumed FULL
   ProBalance (Full) - [**2188-9-22**] 04:52 AM 10 mL/hour
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2188-9-24**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2188-9-25**] 12:00 PM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2188-9-24**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2188-09-27 07:15:00 Physician Resident Progress Note
Chief Complaint: diaphoretic overnight
   24 Hour Events:
 EKG - At [**2188-9-26**] 08:37 AM
 EEG - At [**2188-9-26**] 10:30 AM
   EEG begun
   1.        EEG completed & pending read
   2.        Started on Ceftriaxone for Proteus UTI.
   3.        Psych recs: continue to hold benzos, use haldol prn
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2188-9-26**] 12:19 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-9-27**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.2
C (97.1
   HR: 99 (75 - 119) bpm
   BP: 146/64(81) {96/46(62) - 172/114(122)} mmHg
   RR: 15 (12 - 29) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
             Total In:
                                                                  4,001 mL
                                                                    743 mL
   PO:
             TF:
                                                                  1,371 mL
                                                                    434 mL
   IVF:
                                                                  2,270 mL
                                                                    130 mL
   Blood products:
   Total out:
                                                                  1,205 mL
                                                                    245 mL
   Urine:
                                                                  1,205 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,796 mL
                                                                    500 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 99%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   273 K/uL
   8.8 g/dL
   156 mg/dL
   0.8 mg/dL
   30 mEq/L
   3.4 mEq/L
   16 mg/dL
   104 mEq/L
   142 mEq/L
   26.2 %
   8.3 K/uL
        [image002.jpg]
                            [**2188-9-21**]  01:10 PM
                            [**2188-9-22**]  05:11 PM
                            [**2188-9-23**]  06:02 AM
                            [**2188-9-24**]  04:12 AM
                            [**2188-9-24**]  01:39 PM
                            [**2188-9-24**]  06:50 PM
                            [**2188-9-25**]  03:43 AM
                            [**2188-9-25**]  12:16 PM
                            [**2188-9-26**]  03:34 AM
                            [**2188-9-27**]  04:45 AM
   WBC
   7.2
   6.9
   6.7
   7.1
   8.4
   8.3
   Hct
   25.3
   26.8
   27.0
   25.1
   24.7
   26.2
   Plt
   [**Telephone/Fax (2) 6159**]
   Cr
   1.0
   0.8
   0.8
   0.7
   0.8
   0.8
   TCO2
   32
   32
   32
   34
   Glucose
   139
   148
   139
   125
   148
   156
   Other labs: PT / PTT / INR:13.6/28.8/1.2, CK / CKMB /
   Troponin-T:/7/<0.01, ALT / AST:25/33, Alk Phos / T Bili:133/0.8,
   Ca++:8.9 mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 IMPAIRED SKIN INTEGRITY
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   82 y/oM a/w ankle fracture s/p ORIF on [**9-18**] after fall while
   intoxicated now with severe agitation and timing that is appropriate
   for EtOH withdrawal. Ongoing agitation.
    #Agitation and Confusion: Pain vs. withdrawal vs. medical delirium.
   Had been on CIWA scale for 6 days and  received significant amounts of
   valium.  .  Contact[**Name (NI) **] psychiatry [**9-24**]  for help in management, they
   suggested discontinuing valium, and adding haldol for agitation. Will
   go back to valium if patient exhibits further signs of withdrawal such
   as tremulousness or diaphoresis. Patient still sedated [**9-25**] and did
   not receive haldol overnight.  Will continue with oxycodone for pain
   control. Vitamin B12 deficient, will replete.  Urine culture from [**9-23**]
   also growing proteus.
   -add haldol 1-2mg PO q1h:prn agitation
   -continue standing oxycodone for pain
   -check ekg for QTc prolongation
   -Vitamin B12 deficient. Will add vitamin B12
   -ceftriaxone for proteus UTI.
   .
   #alcoholism: multivitamins in tube feeds.  Will get thiamine 100mg IV
   x3.
    .
   #Hypertension: secondary to delirium and agitation.  Holding home
   antihypertensive medications. Added metoprolol [**Hospital1 **] [**9-25**].
   .
   # R lateral malleolar fracture: s/p ORIF on [**9-18**] :
   - ortho following
   - NWB RLE (can be touchdown if can't do NWB)
   - pain control
   - lovenox  ordered for today
   - Stays in splint until f/u (with [**Doctor Last Name 6048**])
   .
   #Hypoxia: PO2 59 on room air. CXR with atelectasis vs pneumonia at left
   base. Will continue to follow for signs of infection
   .
   #Access: lost both peripheral IV
s overnight.  Will request PICC
   placement
   # FEN:Tube feeds
   # PPX:  lovenox
   # Code Status: presumed FULL
   ProBalance (Full) - [**2188-9-22**] 04:52 AM 10 mL/hour
    PICC Line - [**2188-9-24**] 02:00 PM
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2188-9-27**] 03:16 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2188-9-24**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2188-09-27 09:34:00 Physician Attending Progress Note
Chief Complaint: Ankle fracture, EtoH withdrawl, delirium
   HPI:
   82 yo man with h/o ETOH abuse was found down on [**9-17**] in bathroom,
   stuporous.  Found to be intoxicated and with broken ankle on right.
   Went for ORIF on [**9-18**].  In PACU was hypertensive, BP controlled with
   hydral and started on CIWA scale with ativan.   Seen by med consult on
   [**9-19**].  received total of 12mg of ativan and 20 valium and 5 zydis
   overnight.    Came to MICU for EtOH withdrawal and was received
   frequent valium but remained delerius even after 7d from last Etoh.  So
   felt there may be contribution from post-op/ICU delerium or metabolic
   cause.  Stopped benzos 2d ago and now getting prn Haldol.  Still
   agitated but not alert.  Today, urine cx came back positive for proteus
   so delerium may be due to UTI.  Started on Ctx.
   24 Hour Events:
   -EEG done, not read yed
   -UCx came back with Proteus, started ctx
   -haldol changed to prn
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2188-9-26**] 12:19 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-9-27**] 09:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.5
C (97.7
   HR: 76 (75 - 119) bpm
   BP: 151/54(74) {96/46(62) - 172/114(122)} mmHg
   RR: 14 (12 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  4,001 mL
                                                                    955 mL
   PO:
             TF:
                                                                  1,371 mL
                                                                    551 mL
   IVF:
                                                                  2,270 mL
                                                                    149 mL
   Blood products:
   Total out:
                                                                  1,205 mL
                                                                    375 mL
   Urine:
                                                                  1,205 mL
                                                                    315 mL
   NG:
   60 mL
   Stool:
   Drains:
   Balance:
                                                                  2,796 mL
                                                                    580 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished, somnolent
   Eyes / Conjunctiva: R surgical pupil with cataract
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant :
   clear bilaterally), (Breath Sounds: Crackles : bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+, RUE 2+ swelling
   Skin:  Warm, no rash
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   8.8 g/dL
   273 K/uL
   156 mg/dL
   0.8 mg/dL
   30 mEq/L
   3.4 mEq/L
   16 mg/dL
   104 mEq/L
   142 mEq/L
   26.2 %
   8.3 K/uL
        [image002.jpg]
                            [**2188-9-21**]  01:10 PM
                            [**2188-9-22**]  05:11 PM
                            [**2188-9-23**]  06:02 AM
                            [**2188-9-24**]  04:12 AM
                            [**2188-9-24**]  01:39 PM
                            [**2188-9-24**]  06:50 PM
                            [**2188-9-25**]  03:43 AM
                            [**2188-9-25**]  12:16 PM
                            [**2188-9-26**]  03:34 AM
                            [**2188-9-27**]  04:45 AM
   WBC
   7.2
   6.9
   6.7
   7.1
   8.4
   8.3
   Hct
   25.3
   26.8
   27.0
   25.1
   24.7
   26.2
   Plt
   [**Telephone/Fax (3) 6159**]
   Cr
   1.0
   0.8
   0.8
   0.7
   0.8
   0.8
   TCO2
   32
   32
   32
   34
   Glucose
   139
   148
   139
   125
   148
   156
   Other labs: PT / PTT / INR:13.6/28.8/1.2, CK / CKMB /
   Troponin-T:/7/<0.01, ALT / AST:25/33, Alk Phos / T Bili:133/0.8,
   Ca++:8.9 mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   -EtOH withdrawl vs postop delerium vs benzo intoxication
   -avoid benzos, haldol prn
   -wean oxycodone
   Hypoxemia
   -low PaO2 on ABG, consider PE given risk factor of orthopedic surgery
   -CTA to r/o PE
   -check RUE U/S to r/o DVT
   UTI
   -ceftriaxone total 7 days
 IMPAIRED SKIN INTEGRITY
   -frequent turning
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   -oxycodone 2.5 mg q6h and prn
   -ortho following, NWB RLE
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   -out of window, finished benzo taper
   Full Code
   Lines: R PICC
   Ppx: lovenox, keep HOB >30 degrees
   Nutrition: on tube feeds
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2188-9-27**] 03:16 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2188-9-24**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Last Name (NamePattern1) 885**], MD
   on:[**2188-9-27**] 16:02 ------

2188-09-28 08:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   1.minimized haldol 2.got RUE US. 3.Increased lopressor to 37.5mg PO TID
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2188-9-27**] 12:40 PM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2188-9-27**] 10:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-9-28**] 08:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.2
C (99
   HR: 81 (69 - 101) bpm
   BP: 121/55(70) {94/33(58) - 188/88(122)} mmHg
   RR: 14 (11 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,393 mL
                                                                    795 mL
   PO:
             TF:
                                                                  1,440 mL
                                                                    527 mL
   IVF:
                                                                    398 mL
                                                                     88 mL
   Blood products:
   Total out:
                                                                  1,060 mL
                                                                    435 mL
   Urine:
                                                                  1,000 mL
                                                                    435 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                  1,333 mL
                                                                    360 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 100%
   ABG: ///33/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   273 K/uL
   8.8 g/dL
   117 mg/dL
   0.8 mg/dL
   33 mEq/L
   3.8 mEq/L
   19 mg/dL
   104 mEq/L
   143 mEq/L
   26.2 %
   8.3 K/uL
        [image002.jpg]
                            [**2188-9-22**]  05:11 PM
                            [**2188-9-23**]  06:02 AM
                            [**2188-9-24**]  04:12 AM
                            [**2188-9-24**]  01:39 PM
                            [**2188-9-24**]  06:50 PM
                            [**2188-9-25**]  03:43 AM
                            [**2188-9-25**]  12:16 PM
                            [**2188-9-26**]  03:34 AM
                            [**2188-9-27**]  04:45 AM
                            [**2188-9-28**]  04:40 AM
   WBC
   7.2
   6.9
   6.7
   7.1
   8.4
   8.3
   Hct
   25.3
   26.8
   27.0
   25.1
   24.7
   26.2
   Plt
   [**Telephone/Fax (3) 6159**]
   Cr
   1.0
   0.8
   0.8
   0.7
   0.8
   0.8
   0.8
   TCO2
   32
   32
   34
   Glucose
   139
   148
   139
   125
   148
   156
   117
   Other labs: PT / PTT / INR:13.3/25.8/1.1, CK / CKMB /
   Troponin-T:/7/<0.01, ALT / AST:25/33, Alk Phos / T Bili:133/0.8,
   Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   82 y/oM a/w ankle fracture s/p ORIF on [**9-18**] after fall while
   intoxicated now with severe agitation and timing that is appropriate
   for EtOH withdrawal. Ongoing agitation.
   #Agitation and Confusion: Pain vs. withdrawal vs. medical delirium. Had
   been on CIWA scale for 6 days and received significant amounts of
   valium. . Contact[**Name (NI) **] psychiatry [**9-24**] for help in management, they
   suggested discontinuing valium, and adding haldol for agitation. Will
   go back to valium if patient exhibits further signs of withdrawal such
   as tremulousness or diaphoresis. Patient still sedated [**9-25**] and did
   not receive haldol overnight. Will continue with oxycodone for pain
   control. Vitamin B12 deficient, will replete. Urine culture from [**9-23**]
   also growing proteus.
   -discontinue standing haldol, continue with haldol prn.
   -continue standing oxycodone at lower dose for pain
   -check ekg for QTc prolongation
   -Vitamin B12 deficient. Will add vitamin B12
   -ceftriaxone for proteus UTI.
   -CTA looking for PE, given risk factors
   -resend blood and urine cultures.
   .
   #alcoholism: multivitamins in tube feeds. received thiamine 100mg IV
   x3.
   .
   #Hypertension: pmh of hypertension. Also secondary to delirium and
   agitation. Will titrate up metoprolol [**Hospital1 **].
   .
   # R lateral malleolar fracture: s/p ORIF on [**9-18**] :
   - ortho following
   - NWB RLE (can be touchdown if can't do NWB)
   - pain control
   - lovenox ordered for today
   - Stays in splint until f/u (with [**Doctor Last Name 6048**])
   .
   #Hypoxia: PO2 59 on room air. CXR with atelectasis vs pneumonia at left
   base. Will continue to follow for signs of infection.
   .
   #Access: lost both peripheral IV
s overnight. Will request PICC
   placement
   .
   # FEN:Tube feeds
   .
   # PPX: lovenox
   # Code Status: presumed FULL
   ProBalance (Full) - [**2188-9-22**] 04:52 AM 10 mL/hour
   PICC Line - [**2188-9-24**] 02:00 PM
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2188-9-27**] 11:12 PM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2188-9-24**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2188-09-28 10:32:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   82 yo man with h/o ETOH abuse was found down on [**9-17**] in bathroom,
   stuporous.  Found to be intoxicated and with broken ankle on right.
   Went for ORIF on [**9-18**].  In PACU was hypertensive, BP controlled with
   hydral and started on CIWA scale with ativan.   Seen by med consult on
   [**9-19**].  received total of 12mg of ativan and 20 valium and 5 zydis
   overnight.    Came to MICU for EtOH withdrawal and was received
   frequent valium but remained delerius even after 7d from last Etoh.  So
   felt there may be contribution from post-op/ICU delerium or metabolic
   cause.  Stopped benzos 2d ago and now getting prn Haldol.  Still
   agitated but not alert.  Today, urine cx came back positive for proteus
   so delerium may be due to UTI.  Started on Ctx.
   24 Hour Events:
 ULTRASOUND - At [**2188-9-27**] 08:00 PM- no clots seen, but basilic not
   seen
   -increased lopressor
   -BCx on [**9-27**] GPC 2/2 bottles
   -started vanco
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2188-9-27**] 12:40 PM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2188-9-27**] 10:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-9-28**] 10:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.2
C (99
   HR: 81 (69 - 101) bpm
   BP: 121/55(70) {94/33(58) - 188/88(122)} mmHg
   RR: 14 (11 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,393 mL
                                                                    832 mL
   PO:
             TF:
                                                                  1,440 mL
                                                                    552 mL
   IVF:
                                                                    398 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,060 mL
                                                                    435 mL
   Urine:
                                                                  1,000 mL
                                                                    435 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                  1,333 mL
                                                                    397 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 100%
   ABG: ///33/
   Physical Examination
   General Appearance: Well nourished, No acute distress, somnolent
   Eyes / Conjunctiva: R surgical pupil
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, RUE 1+ edema
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Not assessed
   Labs / Radiology
   8.8 g/dL
   273 K/uL
   117 mg/dL
   0.8 mg/dL
   33 mEq/L
   3.8 mEq/L
   19 mg/dL
   104 mEq/L
   143 mEq/L
   26.2 %
   8.3 K/uL
        [image002.jpg]
                            [**2188-9-22**]  05:11 PM
                            [**2188-9-23**]  06:02 AM
                            [**2188-9-24**]  04:12 AM
                            [**2188-9-24**]  01:39 PM
                            [**2188-9-24**]  06:50 PM
                            [**2188-9-25**]  03:43 AM
                            [**2188-9-25**]  12:16 PM
                            [**2188-9-26**]  03:34 AM
                            [**2188-9-27**]  04:45 AM
                            [**2188-9-28**]  04:40 AM
   WBC
   7.2
   6.9
   6.7
   7.1
   8.4
   8.3
   Hct
   25.3
   26.8
   27.0
   25.1
   24.7
   26.2
   Plt
   [**Telephone/Fax (2) 6159**]
   Cr
   1.0
   0.8
   0.8
   0.7
   0.8
   0.8
   0.8
   TCO2
   32
   32
   34
   Glucose
   139
   148
   139
   125
   148
   156
   117
   Other labs: PT / PTT / INR:13.3/25.8/1.1, CK / CKMB /
   Troponin-T:/7/<0.01, ALT / AST:25/33, Alk Phos / T Bili:133/0.8,
   Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   -haldol prn
   -vanco and ceftriaxone
   -repleting B12
   -oxycodone prn
   Bacteremia: suspect from PICC
   -will need PICC pulled and power PICC placed
   -try and get peripheral BCx
   -Vancomycin
   -will need to examine wound when ortho unwraps
   Hypoxemia: Unclear cause, pulmonary edema vs PE
   -plan CTA after power PICC placed
   -if increasing concern for PE with increase lovenox to treatment doses
   UTI: Proteus
   -ceftriaxone X7 days
 IMPAIRED SKIN INTEGRITY
   -pressure precautions
   Ppx: lovenox, PPI
   Access: R PICC
   Full Code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2188-9-24**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) 749**] [**Last Name (NamePattern1) **], MD
   on:[**2188-9-28**] 15:25 ------

2188-09-29 07:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Concern for aspiration with secretions resembling tube feeds suctioned,
   and tube feeds held.
   Continues to be unresponsive.
   Became more agitated and hypertensive/tachycardic yesterday and was
   given haldol 2.5mg IV, and pain medications.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2188-9-28**] 12:02 PM
   Vancomycin - [**2188-9-28**] 03:03 PM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2188-9-28**] 03:00 PM
   Haloperidol (Haldol) - [**2188-9-28**] 03:58 PM
   Morphine Sulfate - [**2188-9-28**] 03:58 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: Dry mouth
   Flowsheet Data as of  [**2188-9-29**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.3
C (99.2
   HR: 90 (63 - 119) bpm
   BP: 167/75(97) {93/47(57) - 214/94(118)} mmHg
   RR: 18 (14 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,272 mL
                                                                    175 mL
   PO:
             TF:
                                                                  1,152 mL
   IVF:
                                                                    740 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  1,165 mL
                                                                    230 mL
   Urine:
                                                                  1,165 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,107 mL
                                                                    -55 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 100%
   ABG: ///34/
   Physical Examination
   General Appearance: Diaphoretic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: coarse b/l
   Abdominal: Non-tender
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   329 K/uL
   8.6 g/dL
   117 mg/dL
   1.0 mg/dL
   34 mEq/L
   4.3 mEq/L
   27 mg/dL
   102 mEq/L
   141 mEq/L
   25.8 %
   8.4 K/uL
        [image002.jpg]
                            [**2188-9-24**]  04:12 AM
                            [**2188-9-24**]  01:39 PM
                            [**2188-9-24**]  06:50 PM
                            [**2188-9-25**]  03:43 AM
                            [**2188-9-25**]  12:16 PM
                            [**2188-9-26**]  03:34 AM
                            [**2188-9-27**]  04:45 AM
                            [**2188-9-28**]  04:40 AM
                            [**2188-9-28**]  10:58 AM
                            [**2188-9-29**]  04:51 AM
   WBC
   6.7
   7.1
   8.4
   8.3
   7.5
   8.4
   Hct
   27.0
   25.1
   24.7
   26.2
   25.7
   25.8
   Plt
   [**Telephone/Fax (3) **]73
   302
   329
   Cr
   0.8
   0.7
   0.8
   0.8
   0.8
   1.0
   TCO2
   32
   32
   34
   Glucose
   139
   125
   148
   156
   117
   117
   Other labs: PT / PTT / INR:13.9/27.1/1.2, CK / CKMB /
   Troponin-T:/7/<0.01, ALT / AST:20/29, Alk Phos / T Bili:140/0.4,
   Differential-Neuts:66.4 %, Lymph:20.1 %, Mono:5.8 %, Eos:7.6 %,
   Ca++:9.4 mg/dL, Mg++:2.3 mg/dL, PO4:4.8 mg/dL
   Imaging: CXR Yesterday
   FINDINGS: Compared to [**2188-9-26**], there is no significant interval
   change
   with continued interstitial markings visualized at the lower lung
   fields. No
   new focal consolidations and no evidence for interval aspiration
   pneumonia. A
   right PICC line and NGT remain in place.
   Microbiology: [**2188-9-29**]  BLOOD CULTURE  Pending
   [**2188-9-28**]  BLOOD CULTURE  Pending
   [**2188-9-27**]  URINE  Final
   [**2188-9-27**]  BLOOD CULTURE  [**1-5**] GPC
   [**2188-9-23**]  MRSA SCREEN  Final
   [**2188-9-23**]  URINE  Final
   Assessment and Plan
   82 y/oM a/w ankle fracture s/p ORIF on [**9-18**] after fall while
   intoxicated now with severe agitation and timing that is appropriate
   for EtOH withdrawal. Ongoing agitation.
   #Agitation and Confusion: Pain vs. withdrawal vs. medical delirium from
   infection. CT x2 shows no SDH.
   - Repleting low  Vitamin B12
   - Urine culture from [**9-23**] also growing proteus, on ceftriaxone
   -discontinued standing haldol, continue with haldol prn.
   -Making  oxycodone PRN -check ekg for QTc prolongation
   -resend blood and urine cultures.
   - EEG pending
   #alcoholism: multivitamins in tube feeds. received thiamine 100mg IV
   x3.
   # Proteus UTI: on ceftriaxone x7-10d
   # GPC Bacteremia
 Start vancomycin, f/u speciation and try for
   peripheral cultures. If S.aureus, check echo. Plan on pulling line when
   alternate IV access is estabilished.
   .
   #Hypertension: pmh of hypertension. Also secondary to delirium and
   agitation. Will titrate up metoprolol [**Hospital1 **].
   .
   # R lateral malleolar fracture: s/p ORIF on [**9-18**] :
   - ortho following
   - NWB RLE (can be touchdown if can't do NWB)
   - pain control
   - lovenox ordered for today
   - Stays in splint until f/u (with [**Doctor Last Name 6048**])
   .
   #Hypoxia: PO2 59 on room air. CXR with atelectasis vs pneumonia at left
   base.
   -          CTA for PE eval when access is established; risk factor is
   being found down, surgery
   .
   #Access: [**Month (only) 60**] need to pull PICC with GPC in blood; sending peripheral
   cultures, try PIV
   .
   # FEN: Tube feeds
   # PPX: lovenox
   # Code Status: presumed FULL
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2188-9-24**] 02:00 PM
   22 Gauge - [**2188-9-28**] 11:03 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2188-09-30 08:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   EEG read: pending
   Psych recs: none
   CVL: placed into RIJ ; PICC line pulled
   Culture data: preliminary read - staph aureus from [**9-27**]
   Started on Tramadol for pain PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2188-9-28**] 12:02 PM
   Vancomycin - [**2188-9-30**] 08:03 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2188-9-29**] 01:56 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Flowsheet Data as of  [**2188-9-30**] 08:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.1
C (98.8
   HR: 87 (62 - 89) bpm
   BP: 161/57(82) {109/41(57) - 171/73(96)} mmHg
   RR: 23 (11 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,928 mL
                                                                  1,801 mL
   PO:
             TF:
                                                                    480 mL
                                                                    486 mL
   IVF:
                                                                  1,208 mL
                                                                  1,315 mL
   Blood products:
   Total out:
                                                                    815 mL
                                                                    840 mL
   Urine:
                                                                    815 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,113 mL
                                                                    961 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: right corneal opacification, old
   Cardiovascular: (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Non -purposeful, Tone:
   Not assessed, does not withdrawal to pain
   Labs / Radiology
   330 K/uL
   8.1 g/dL
   117 mg/dL
   1.0 mg/dL
   34 mEq/L
   4.3 mEq/L
   27 mg/dL
   102 mEq/L
   141 mEq/L
   24.1 %
   7.7 K/uL
        [image002.jpg]
                            [**2188-9-24**]  01:39 PM
                            [**2188-9-24**]  06:50 PM
                            [**2188-9-25**]  03:43 AM
                            [**2188-9-25**]  12:16 PM
                            [**2188-9-26**]  03:34 AM
                            [**2188-9-27**]  04:45 AM
                            [**2188-9-28**]  04:40 AM
                            [**2188-9-28**]  10:58 AM
                            [**2188-9-29**]  04:51 AM
                            [**2188-9-30**]  05:59 AM
   WBC
   7.1
   8.4
   8.3
   7.5
   8.4
   7.7
   Hct
   25.1
   24.7
   26.2
   25.7
   25.8
   24.1
   Plt
   [**Telephone/Fax (2) 6204**]
   Cr
   0.7
   0.8
   0.8
   0.8
   1.0
   TCO2
   32
   32
   34
   Glucose
   125
   148
   156
   117
   117
   Other labs: PT / PTT / INR:13.5/27.9/1.2, CK / CKMB /
   Troponin-T:/7/<0.01, ALT / AST:20/29, Alk Phos / T Bili:140/0.4,
   Differential-Neuts:66.4 %, Lymph:20.1 %, Mono:5.8 %, Eos:7.6 %,
   Ca++:9.4 mg/dL, Mg++:2.3 mg/dL, PO4:4.8 mg/dL
   Microbiology: [**2188-9-29**]  CATHETER TIP-IV  Pending
   [**2188-9-29**]  BLOOD CULTURE  Pending
   [**2188-9-28**]  BLOOD CULTURE  Pending
   [**2188-9-27**]  URINE  Final
   [**2188-9-27**]  BLOOD CULTURE  STAPH
   [**2188-9-23**]  MRSA SCREEN  Final
   Assessment and Plan
   82 y/oM with h/o EtOH abuse s/p ankle ORIF with altered sensorium since
   surgery, suspected EtOH withdrawal and now after significant benzo load
   with residual coma
 DELIRIUM / CONFUSION
   -          EEG pending
   -          Minimizing medications
   -          continuing to treat infectious causes
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   -          Benzo loaded, last dose 10/24
 BACTEREMIA
   -          Speciated to coag negative, likely contaminant given that
   PICC was new.
   -          Discontinue vancomycin
 URINARY TRACT INFECTION (UTI)
   -          treating with ceftriaxone ([**9-26**], day 5)
 HYPOXEMIA
   -          likely hypoventilation, following
 HYPERTENSION, BENIGN
   -          PRN hydral, treating pain
   -          Check CVP, may need diuresis with furosemide
   -
 ALCOHOL ABUSE
   -          continue vitamins
 CONSTIPATION (OBSTIPATION, FOS)
   -          can increase bowel regimen with miralax/enema
 FRACTURE, OTHER
   -          NWB, ortho following, changed cast and removed staples today
   -          f/u ankle film
 IMPAIRED SKIN INTEGRITY
   -          minimize tape.
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   PRN oxycodone
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2188-9-29**] 04:00 PM 60 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2188-9-29**] 02:30 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2188-10-01 07:53:00 Physician Resident Progress Note
Chief Complaint: ankle fracture; delirium
   24 Hour Events:
   1.Increased metoprolol to 50mg po tid
   2. discontinued oxycodone, haldol
   3. only on acetominophin
   4.Had BM
   History obtained from Medical records
   Allergies:
   History obtained from Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2188-9-30**] 08:03 AM
   Ceftriaxone - [**2188-9-30**] 01:00 PM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2188-9-30**] 04:13 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-10-1**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37
C (98.6
   HR: 86 (65 - 93) bpm
   BP: 171/80(100) {114/47(63) - 204/81(108)} mmHg
   RR: 20 (13 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 13 (-1 - 13)mmHg
   Total In:
                                                                  3,796 mL
                                                                    586 mL
   PO:
   TF:
                                                                  1,452 mL
                                                                    466 mL
   IVF:
                                                                  2,224 mL
   Blood products:
   Total out:
                                                                  2,210 mL
                                                                    640 mL
   Urine:
                                                                  2,210 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,586 mL
                                                                    -54 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///32/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: right old corneal cloud
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Extremities: Right: casted, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Non -purposeful, Tone:
   Not assessed, minimal (moves ext but no withdrawal) response to noxious
   stimuli. + Corneal Reflex. + Gag. Downward going toes on left.
   Labs / Radiology
   346 K/uL
   8.6 g/dL
   147 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.5 mEq/L
   17 mg/dL
   104 mEq/L
   142 mEq/L
   24.9 %
   8.4 K/uL
        [image002.jpg]
                            [**2188-9-24**]  06:50 PM
                            [**2188-9-25**]  03:43 AM
                            [**2188-9-25**]  12:16 PM
                            [**2188-9-26**]  03:34 AM
                            [**2188-9-27**]  04:45 AM
                            [**2188-9-28**]  04:40 AM
                            [**2188-9-28**]  10:58 AM
                            [**2188-9-29**]  04:51 AM
                            [**2188-9-30**]  05:59 AM
                            [**2188-10-1**]  03:43 AM
   WBC
   7.1
   8.4
   8.3
   7.5
   8.4
   7.7
   8.4
   Hct
   25.1
   24.7
   26.2
   25.7
   25.8
   24.1
   24.9
   Plt
   [**Telephone/Fax (2) 6204**]
   346
   Cr
   0.7
   0.8
   0.8
   0.8
   1.0
   0.8
   0.8
   TCO2
   32
   34
   Glucose
   125
   148
   156
   117
   117
   121
   147
   Other labs: PT / PTT / INR:13.5/27.2/1.2, CK / CKMB /
   Troponin-T:/7/<0.01, ALT / AST:20/29, Alk Phos / T Bili:140/0.4,
   Differential-Neuts:66.4 %, Lymph:20.1 %, Mono:5.8 %, Eos:7.6 %,
   Ca++:9.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Imaging: [**9-30**] ankle
   Status post ORIF of right distal fibular fracture without
   evidence for hardware complication.
   Microbiology: [**2188-9-29**]  CATHETER TIP-IV  NGTD
   [**2188-9-29**]  BLOOD CULTURE  NGTD
   [**2188-9-28**]  BLOOD CULTURE  NGTD
   [**2188-9-27**]  URINE  NGTD
   [**2188-9-27**]  BLOOD CULTURE  coag neg
   [**2188-9-23**]  MRSA SCREEN  Final
   Assessment and Plan
   82 y/oM with ankle fracture in setting of EtOH abuse, EtOH withdrawal
   with persistent coma state
 DELIRIUM / CONFUSION
   - Leading diagnosis has been withdrawal with benzo load that is slowly
   tapering
   - Consider neurology consult as today marks one week since last dose of
   diazepam
   - Flumazenil challenge today to clarify if this is all BZD
 BACTEREMIA
   started vanco [**9-28**], culture [**9-27**]; grew coag neg staph, vanc stopped
   [**9-30**]
   Resolved issue; f/u fever curve
 URINARY TRACT INFECTION (UTI)
   proteus, started ceftraxone [**9-26**]
   Continue through 10 day course.
 HYPOXEMIA
   - c/w atalectasis; has mild metabolic alkalosis
 ALCOHOL ABUSE
   - continue vitamins
 CONSTIPATION (OBSTIPATION, FOS)
   had large BM yesterday
 HYPERTENSION, BENIGN
   following, may need CCB; CVP was 0-5 yesterday so deferred diuresis
   Higher CVP today and total body volume up; can give lasix 20mg IV x1
   today
 FRACTURE, OTHER
   - staples removed, xray yesterday was wnl.
   - ortho following
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2188-10-1**] 01:06 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2188-9-29**] 02:30 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2188-10-01 08:16:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2188-9-30**] 08:03 AM
   Ceftriaxone - [**2188-9-30**] 01:00 PM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2188-9-30**] 04:13 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-10-1**] 08:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.6
C (97.9
   HR: 74 (65 - 93) bpm
   BP: 139/57(76) {114/47(63) - 204/81(108)} mmHg
   RR: 15 (13 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
   CVP: 15 (-1 - 15)mmHg
   Total In:
                                                                  3,796 mL
                                                                    616 mL
   PO:
   TF:
                                                                  1,452 mL
                                                                    496 mL
   IVF:
                                                                  2,224 mL
   Blood products:
   Total out:
                                                                  2,210 mL
                                                                    840 mL
   Urine:
                                                                  2,210 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,586 mL
                                                                   -224 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///32/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.6 g/dL
   346 K/uL
   147 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.5 mEq/L
   17 mg/dL
   104 mEq/L
   142 mEq/L
   24.9 %
   8.4 K/uL
        [image002.jpg]
                            [**2188-9-24**]  06:50 PM
                            [**2188-9-25**]  03:43 AM
                            [**2188-9-25**]  12:16 PM
                            [**2188-9-26**]  03:34 AM
                            [**2188-9-27**]  04:45 AM
                            [**2188-9-28**]  04:40 AM
                            [**2188-9-28**]  10:58 AM
                            [**2188-9-29**]  04:51 AM
                            [**2188-9-30**]  05:59 AM
                            [**2188-10-1**]  03:43 AM
   WBC
   7.1
   8.4
   8.3
   7.5
   8.4
   7.7
   8.4
   Hct
   25.1
   24.7
   26.2
   25.7
   25.8
   24.1
   24.9
   Plt
   [**Telephone/Fax (2) 6204**]
   346
   Cr
   0.7
   0.8
   0.8
   0.8
   1.0
   0.8
   0.8
   TCO2
   32
   34
   Glucose
   125
   148
   156
   117
   117
   121
   147
   Other labs: PT / PTT / INR:13.5/27.2/1.2, CK / CKMB /
   Troponin-T:/7/<0.01, ALT / AST:20/29, Alk Phos / T Bili:140/0.4,
   Differential-Neuts:66.4 %, Lymph:20.1 %, Mono:5.8 %, Eos:7.6 %,
   Ca++:9.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION
   [**Month (only) 60**] be a slight improvement today with intermittent response to noxious
   stimuli.
   Continue to monitor avoiding all psychoactive, opioid medications.
   If by next day or two, there is no improvement, will consider LP.
 BACTEREMIA
   GPCs from blood culture are coag neg staph which was likely a
   contaminant given the PICC line it was drawn from was new.  Will stop
   Vancomycin.
 URINARY TRACT INFECTION (UTI)
   Cont ceftraxone started [**9-26**].
 HYPOXEMIA
   Likely due to persistent atelectasis from poor inspiration.  Continue
   to follow.
 HYPERTENSION, BENIGN
   Uptitrate lopressor or add second [**Doctor Last Name **].
 ALCOHOL ABUSE
   Continue folate, thiamine, B12 supplementation.
 CONSTIPATION (OBSTIPATION, FOS)
   Enemas +/- manual disimpaction.
 FRACTURE, OTHER s/p ORIF
   No active issues.  No indications of ongoing pain
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2188-10-1**] 01:06 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2188-9-29**] 02:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2188-10-02 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   1. Flumazenil challenge showed more awakefulness, tracking, response to
   verbal stimuli
   2. ABG yesterday showed 7.44/52/130, NH3 22
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2188-9-30**] 08:03 AM
   Ceftriaxone - [**2188-10-1**] 12:24 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2188-10-1**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-10-2**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98
   HR: 60 (60 - 95) bpm
   BP: 143/57(78) {121/49(67) - 191/92(110)} mmHg
   RR: 19 (15 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 5 (3 - 15)mmHg
   Total In:
                                                                  1,807 mL
                                                                    441 mL
   PO:
   TF:
                                                                  1,447 mL
                                                                    441 mL
   IVF:
                                                                     60 mL
   Blood products:
   Total out:
                                                                  2,550 mL
                                                                    460 mL
   Urine:
                                                                  2,550 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -743 mL
                                                                    -19 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.44/52/130/35/10
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   342 K/uL
   8.1 g/dL
   160 mg/dL
   0.7 mg/dL
   35 mEq/L
   3.1 mEq/L
   19 mg/dL
   105 mEq/L
   146 mEq/L
   24.4 %
   7.4 K/uL
        [image002.jpg]
                            [**2188-9-25**]  12:16 PM
                            [**2188-9-26**]  03:34 AM
                            [**2188-9-27**]  04:45 AM
                            [**2188-9-28**]  04:40 AM
                            [**2188-9-28**]  10:58 AM
                            [**2188-9-29**]  04:51 AM
                            [**2188-9-30**]  05:59 AM
                            [**2188-10-1**]  03:43 AM
                            [**2188-10-1**]  12:46 PM
                            [**2188-10-2**]  05:56 AM
   WBC
   8.4
   8.3
   7.5
   8.4
   7.7
   8.4
   7.4
   Hct
   24.7
   26.2
   25.7
   25.8
   24.1
   24.9
   24.4
   Plt
   259
   273
   302
   329
   330
   346
   342
   Cr
   0.8
   0.8
   0.8
   1.0
   0.8
   0.8
   0.7
   TCO2
   34
   36
   Glucose
   148
   156
   117
   117
   121
   147
   160
   Other labs: PT / PTT / INR:13.5/27.2/1.2, CK / CKMB /
   Troponin-T:/7/<0.01, ALT / AST:20/29, Alk Phos / T Bili:140/0.4,
   Differential-Neuts:71.6 %, Lymph:18.1 %, Mono:4.2 %, Eos:6.0 %, Lactic
   Acid:1.2 mmol/L, Ca++:9.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION
 BACTEREMIA
   started vanco [**9-28**], culture [**9-27**]; grew coag neg staph, vanc stopped
   [**9-30**]
 URINARY TRACT INFECTION (UTI)
   proteus, started ceftraxone [**9-26**]
 ALCOHOL ABUSE
 CONSTIPATION (OBSTIPATION, FOS)
 HYPERTENSION, BENIGN
 FRACTURE, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 IMPAIRED SKIN INTEGRITY
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   82 y/oM with ankle fracture in setting of EtOH abuse, EtOH withdrawal
   with persistent coma state
 DELIRIUM / CONFUSION
   - Leading diagnosis has been withdrawal with benzo load that is slowly
   tapering
   - Consider neurology consult as today marks one week since last dose of
   diazepam
   - Flumazenil challenge today to clarify if this is all BZD
 BACTEREMIA
   started vanco [**9-28**], culture [**9-27**]; grew coag neg staph, vanc stopped
   [**9-30**]
   Resolved issue; f/u fever curve
 URINARY TRACT INFECTION (UTI)
   proteus, started ceftraxone [**9-26**]
   Continue through 10 day course.
 HYPOXEMIA
   - c/w atalectasis; has mild metabolic alkalosis
 ALCOHOL ABUSE
   - continue vitamins
 CONSTIPATION (OBSTIPATION, FOS)
   had large BM yesterday
 HYPERTENSION, BENIGN
   following, may need CCB; CVP was 0-5 yesterday so deferred diuresis
   Higher CVP today and total body volume up; can give lasix 20mg IV x1
   today
 FRACTURE, OTHER
   - staples removed, xray yesterday was wnl.
   - ortho following
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2188-10-1**] 05:40 PM 60 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2188-9-29**] 02:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2188-10-02 07:28:00 Physician Attending Progress Note
Chief Complaint:
   HPI:  I have seen and examined Mr [**Known lastname 3026**] with ICU residents. He is
   being managed for encephalopathy after fixation of ankle fracture that
   he sustained in the setting of ETOH intoxication.
   24 Hour Events:
   - trial of flumazenil with improvement in mental status
   NH3 = 22
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2188-10-1**] 12:24 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2188-10-1**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-10-2**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98
   HR: 60 (60 - 95) bpm
   BP: 143/57(78) {121/49(67) - 191/92(110)} mmHg
   RR: 19 (15 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
   CVP: 5 (3 - 15)mmHg
   Total In:
                                                                  1,807 mL
                                                                    443 mL
   PO:
   TF:
                                                                  1,447 mL
                                                                    443 mL
   IVF:
                                                                     60 mL
   Blood products:
   Total out:
                                                                  2,550 mL
                                                                    460 mL
   Urine:
                                                                  2,550 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -743 mL
                                                                    -17 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.44/52/130/35/10
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: bases bilateral)
   Skin:  Not assessed
   Neurologic: asleep in bed, no response to voice or tactile/noxious
   stimulus
   Labs / Radiology
   8.1 g/dL
   342 K/uL
   160 mg/dL
   0.7 mg/dL
   35 mEq/L
   3.1 mEq/L
   19 mg/dL
   105 mEq/L
   146 mEq/L
   24.4 %
   7.4 K/uL
        [image002.jpg]
                            [**2188-9-25**]  12:16 PM
                            [**2188-9-26**]  03:34 AM
                            [**2188-9-27**]  04:45 AM
                            [**2188-9-28**]  04:40 AM
                            [**2188-9-28**]  10:58 AM
                            [**2188-9-29**]  04:51 AM
                            [**2188-9-30**]  05:59 AM
                            [**2188-10-1**]  03:43 AM
                            [**2188-10-1**]  12:46 PM
                            [**2188-10-2**]  05:56 AM
   WBC
   8.4
   8.3
   7.5
   8.4
   7.7
   8.4
   7.4
   Hct
   24.7
   26.2
   25.7
   25.8
   24.1
   24.9
   24.4
   Plt
   259
   273
   302
   329
   330
   346
   342
   Cr
   0.8
   0.8
   0.8
   1.0
   0.8
   0.8
   0.7
   TCO2
   34
   36
   Glucose
   148
   156
   117
   117
   121
   147
   160
   Other labs: PT / PTT / INR:13.5/27.2/1.2, CK / CKMB /
   Troponin-T:/7/<0.01, ALT / AST:20/29, Alk Phos / T Bili:140/0.4,
   Differential-Neuts:71.6 %, Lymph:18.1 %, Mono:4.2 %, Eos:6.0 %, Lactic
   Acid:1.2 mmol/L, Ca++:9.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   [**9-29**] Blood clx: NGTD
   Assessment and Plan
   82 yo man with h/o ETOH abuse was found down on [**9-17**] in bathroom,
   stuporous.  Found to be intoxicated and with broken ankle on right.
   Went for ORIF on [**9-18**] and s/p went into withdrawl treated with high
   doses of benzos (last dose 10/22). Slow to clear mental status with
   improvement [**10-1**] with flumazenil challenge.
   1  DELIRIUM / CONFUSION
   Likely toxic-metabolic in etiology, with slow hepatic clearance
   (despite normal LFTs and normal NH3) of benzos given his improvement
   with flumazenil. Will start lactulose to enhance clearance titrate to
   sev bowel movements per day. Notably ABG 7.44/52, no hypercarbia
   contributing to MS
   Continue to monitor avoiding all psychoactive, opioid medications.
   Follow Na and other electrolytes closely.  Repleting B12
   -  BACTEREMIA
   - S/p PICC line removal and treatment for MRSE in blood
    - URINARY TRACT INFECTION (UTI)
   Cont ceftriaxone started [**9-26**] with course through [**10-6**].
   - Contraction Alkalosis: no I/O goal, let him self regulate. Follow up
   Na this afternoon and add free water if needed.
   -HYPOXEMIA
   Likely due to persistent atelectasis from poor inspiration.  Cont
   pulmonary toilet: OOB-> chair
   - HTN:  titrate Metoprolol, partly occurs in the setting of HTN
   (measurements from the leg have been running high)
   - ALCOHOL ABUSE
   Continue folate, thiamine, B12 supplementation given deficiency.
 FRACTURE, OTHER s/p ORIF
   No active issues.  No indications of ongoing pain.
   other issues per resident note.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2188-10-1**] 05:40 PM 60 mL/hour
   Glycemic Control:  no protocol. Good control at present.
   Lines:
   Multi Lumen - [**2188-9-29**] 02:30 PM
   Prophylaxis:
   DVT: lovenox 40 SQ@ daily
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU, could potentially transfer to floor with careful
   management of airway secretions as he begins to arouse off
   benzodiazepines
   Total time spent:  25 minutes

2188-10-03 07:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   1.       Lactulose started
   2.       3PM lytes: increased TF water flushes for a Sodium of 147
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2188-9-30**] 08:03 AM
   Ceftriaxone - [**2188-10-2**] 12:00 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2188-10-2**] 08:00 AM
   Enoxaparin (Lovenox) - [**2188-10-2**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-10-3**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.8
   HR: 64 (57 - 94) bpm
   BP: 146/70(87) {121/35(68) - 188/103(120)} mmHg
   RR: 16 (12 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 9 (4 - 12)mmHg
   Total In:
                                                                  1,950 mL
                                                                    677 mL
   PO:
   TF:
                                                                  1,380 mL
                                                                    452 mL
   IVF:
                                                                     70 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                    350 mL
   Urine:
                                                                  1,350 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    600 mL
                                                                    327 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///34/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   381 K/uL
   8.4 g/dL
   123 mg/dL
   0.8 mg/dL
   34 mEq/L
   3.7 mEq/L
   19 mg/dL
   106 mEq/L
   145 mEq/L
   25.0 %
   9.2 K/uL
        [image002.jpg]
                            [**2188-9-27**]  04:45 AM
                            [**2188-9-28**]  04:40 AM
                            [**2188-9-28**]  10:58 AM
                            [**2188-9-29**]  04:51 AM
                            [**2188-9-30**]  05:59 AM
                            [**2188-10-1**]  03:43 AM
                            [**2188-10-1**]  12:46 PM
                            [**2188-10-2**]  05:56 AM
                            [**2188-10-2**]  02:19 PM
                            [**2188-10-3**]  02:27 AM
   WBC
   8.3
   7.5
   8.4
   7.7
   8.4
   7.4
   9.2
   Hct
   26.2
   25.7
   25.8
   24.1
   24.9
   24.4
   25.0
   Plt
   273
   302
   329
   [**Telephone/Fax (3) 6267**]
   381
   Cr
   0.8
   0.8
   1.0
   0.8
   0.8
   0.7
   0.7
   0.8
   TCO2
   36
   Glucose
   156
   117
   117
   121
   147
   160
   104
   123
   Other labs: PT / PTT / INR:13.5/27.2/1.2, CK / CKMB /
   Troponin-T:/7/<0.01, ALT / AST:16/24, Alk Phos / T Bili:120/0.3,
   Differential-Neuts:71.6 %, Lymph:18.1 %, Mono:4.2 %, Eos:6.0 %, Lactic
   Acid:1.2 mmol/L, Albumin:3.3 g/dL, LDH:260 IU/L, Ca++:9.5 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION
 BACTEREMIA
   started vanco [**9-28**], culture [**9-27**]; grew coag neg staph, vanc stopped
   [**9-30**]
 URINARY TRACT INFECTION (UTI)
   proteus, started ceftraxone [**9-26**]
 ALCOHOL ABUSE
 CONSTIPATION (OBSTIPATION, FOS)
 HYPERTENSION, BENIGN
 FRACTURE, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 IMPAIRED SKIN INTEGRITY
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   82 y/oM with ankle fracture in setting of EtOH abuse, EtOH withdrawal
   with persistent coma state
 DELIRIUM / CONFUSION/SEDATION
   -responded to flumazenil [**10-1**], likely related to benzo intoxication.
   -starting lactulose
 BACTEREMIA
   started vanco [**9-28**], culture [**9-27**]; grew coag neg staph, vanc stopped
   [**9-30**]
   Resolved issue; f/u fever curve
 URINARY TRACT INFECTION (UTI)
   proteus, started ceftraxone [**9-26**]
   Continue through 10 day course.
 HYPOXEMIA
   - c/w atalectasis; has mild metabolic alkalosis
 ALCOHOL ABUSE
   - continue vitamins
 CONSTIPATION (OBSTIPATION, FOS)
   had large BM yesterday
 HYPERTENSION, BENIGN
   -recheck on arm, hydral PRN SBP> 190
   Metabolic Alkalosis: Likely from overdiuresis yesterday
   -hold lasix
 FRACTURE, OTHER
   - staples removed, xray yesterday was wnl.
   - ortho following
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2188-10-3**] 03:48 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2188-9-29**] 02:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2188-10-03 07:31:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Ankle fracture, ETOH withdrawal
   24 Hour Events:
   Increasingly alert
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2188-9-30**] 08:03 AM
   Ceftriaxone - [**2188-10-2**] 12:00 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2188-10-2**] 08:00 AM
   Enoxaparin (Lovenox) - [**2188-10-2**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-10-3**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.8
   HR: 64 (57 - 94) bpm
   BP: 146/70(87) {121/35(68) - 188/103(120)} mmHg
   RR: 16 (12 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
   CVP: 9 (4 - 12)mmHg
   Total In:
                                                                  1,950 mL
                                                                    675 mL
   PO:
   TF:
                                                                  1,380 mL
                                                                    450 mL
   IVF:
                                                                     70 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                    350 mL
   Urine:
                                                                  1,350 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    600 mL
                                                                    325 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///34/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: bases bilateral)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Oriented (to): , Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   CXR [**10-3**]:
   8.4 g/dL
   381 K/uL
   123 mg/dL
   0.8 mg/dL
   34 mEq/L
   3.7 mEq/L
   19 mg/dL
   106 mEq/L
   145 mEq/L
   25.0 %
   9.2 K/uL
        [image002.jpg]
                            [**2188-9-27**]  04:45 AM
                            [**2188-9-28**]  04:40 AM
                            [**2188-9-28**]  10:58 AM
                            [**2188-9-29**]  04:51 AM
                            [**2188-9-30**]  05:59 AM
                            [**2188-10-1**]  03:43 AM
                            [**2188-10-1**]  12:46 PM
                            [**2188-10-2**]  05:56 AM
                            [**2188-10-2**]  02:19 PM
                            [**2188-10-3**]  02:27 AM
   WBC
   8.3
   7.5
   8.4
   7.7
   8.4
   7.4
   9.2
   Hct
   26.2
   25.7
   25.8
   24.1
   24.9
   24.4
   25.0
   Plt
   273
   302
   329
   [**Telephone/Fax (3) 6267**]
   381
   Cr
   0.8
   0.8
   1.0
   0.8
   0.8
   0.7
   0.7
   0.8
   TCO2
   36
   Glucose
   156
   117
   117
   121
   147
   160
   104
   123
   Other labs: PT / PTT / INR:13.5/27.2/1.2, CK / CKMB /
   Troponin-T:/7/<0.01, ALT / AST:16/24, Alk Phos / T Bili:120/0.3,
   Differential-Neuts:71.6 %, Lymph:18.1 %, Mono:4.2 %, Eos:6.0 %, Lactic
   Acid:1.2 mmol/L, Albumin:3.3 g/dL, LDH:260 IU/L, Ca++:9.5 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   82 yo man with h/o ETOH abuse was found down on [**9-17**] in bathroom,
   stuporous.  Found to be intoxicated and with broken ankle on right.
   Went for ORIF on [**9-18**] and s/p went into withdrawl treated with high
   doses of benzos (last dose 10/22). Slow to clear mental status with
   improvement [**10-1**] with flumazenil challenge. Conts to be slow to
   improve in MS over the last 48hrs
   > DELIRIUM / CONFUSION
   Likely toxic-metabolic in etiology, with slow hepatic clearance
   (despite normal LFTs and normal NH3) of benzos given his improvement
   with flumazenil. Started lactulose [**10-2**] to enhance clearance titrate
   to sev bowel movements per day and he is slowly improving.
   Continue to monitor avoiding all psychoactive, opioid medications.
   Follow Na and other electrolytes closely, replete with free water.
   Repleting B12
   > BACTEREMIA
   S/p PICC line removal and treatment for MRSE in blood
   >URINARY TRACT INFECTION (UTI)
   Cont ceftriaxone started [**9-26**] with course through [**10-6**].
   >Contraction Alkalosis: no I/O goal, let him self regulate (improving
   since [**10-2**]). Follow up Na this afternoon and cont free water (150 cc
   q6h)
   >HYPOXEMIA
   Likely due to persistent atelectasis from poor inspiration.  Cont
   pulmonary toilet: OOB-> chair
   > HTN:  titrate Metoprolol, partly occurs in the setting of HTN
   (measurements from the leg have been running high)
   > ALCOHOL ABUSE
   Continue folate, thiamine, B12 supplementation given deficiency.
   > FRACTURE, OTHER s/p ORIF
    No active issues.  No indications of ongoing pain.
   other issues per resident note.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2188-10-3**] 03:48 AM 60 mL/hour and free
   water
   Glycemic Control:  Comments: good control with no SSI
   Lines:
   Multi Lumen - [**2188-9-29**] 02:30 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent:  20 minutes